Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea  

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ male with HIV (CD4 225, CD4/CD8 0.4, VL 
78,000 ___, Refsum's disease, reactive airway disease, 
restrictive lung disease who presents with dyspnea.  

He complains of increasing dyspnea x 2 weeks with increased 
albuteral inhaler usage, mostly because of the recent weather 
change and worsening allergy symptoms.  It was really bad on 
___ that he was using his albuterol inhaler ever couple of 
feet that he walks.  He felt better on ___.  However, 
today, the dypsnea came back, especially with exertion, and he 
was feeling a little lightheaded.  These happened after he took 
his morning pills including the new Atripla.  He also feels very 
dry.  He reports minimal cough, non-productive, similar to 
post-nasal drip cough.  He reports no chest pain, palpitation, 
N/V, sick contact, recent travel, recent TB exposure, abdominal 
pain, fever or chill.  He has never had asthma exacerbation 
requiring intubation in the past. 

Of note, patient just started his Atripla today.   

Initial ___ VS were 99.4 113 178/86 20 93% RA.  Labs were notable 
for normal WBC, Hgb 12.3/Hcg 36.7, Plt 173, no left shift, 
normal chemistry, Phos .3, Crt 0.9, UA negative, lactate 1.3, 
AST 45, but LFT otherwise normal.  CXR showed ? small LLL 
consolidation.  EKG showed sinus tachycardia, left axis 
deviation and right atrial enlargement.  He received albuterol 
nebs x 2 and ipratropium neb, prednisone 20 mg, and ceftriaxone 
1 g IV and most of the 500 mg IV azithromycin.  ID fellow was 
apparently paged from the ___.  Peak expiratory flow was 220 
after albuterol neb.

 
Past Medical History:
- Refsum's disease (hereditary motor and sensory neuropathy type 
IV)  
- HIV infection  
- Knee replacements, bilateral  
- Reactive airway disease  
- Allergic rhinitis (recurrent)  
- Otitis media (recurrent)  
 

 
Social History:
___
Family History:
- Sister: ___ disease  
- Mother: deceased, had metastatic breast cancer and Alzheimer's 
disease
- Father: deceased, had throat cancer and had EtOH/smoking 
history

 
Physical Exam:
Physical exam at admission:
VS - 99.1, 159/107, HR 114, 95-97% RA, RR 18 
GENERAL -  well appearing Caucasian male, NAD
HEENT - PERRLA, OP clear, MMM
NECK - supple, no LAD, no JVD
LUNGS - CTAB, no w/c/r, no accessory muscle use
HEART - regular tachycardic, normal S1 and S2, no m/r/g
ABDOMEN - soft, NT, ND, BS+, no HSM
EXTREMITIES - warm, dry, 2+ ___ pulses bilaterally, trace edema 
to the ankles
NEURO - A&Ox3, + neuropathy, mostly peripheral, gait is normal, 
CN III-XII intact, no motor deficit noted.

Physical exam at discharge:
Vitals: 98.4  150/91  112  20 95%RA
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - PERRLA, EOMI, sclerae anicteric, OP clear  
HEART - RRR, nl S1-S2, no MRG  
LUNGS - no use of accessory muscles while breathing, able to 
speak in full sentences without gasping for air; + prominent end 
expiratory wheezing in bilateral lungs, worse in middle lobes; 
no egophony or dullness to percussion noted  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM   
NEURO - awake, A&Ox3, CNs II-XII grossly intact 
 
Pertinent Results:
Labs at admission:
___ 04:55PM BLOOD WBC-5.1 RBC-4.38* Hgb-12.3* Hct-36.7* 
MCV-84 MCH-28.1 MCHC-33.5 RDW-15.4 Plt ___
___ 04:55PM BLOOD Neuts-62.3 ___ Monos-5.0 Eos-9.8* 
Baso-0.6
___ 04:55PM BLOOD Glucose-105* UreaN-14 Creat-0.9 Na-136 
K-4.2 Cl-101 HCO3-26 AnGap-13
___ 04:55PM BLOOD ALT-20 AST-45* AlkPhos-94 TotBili-0.6

Labs at discharge:
___ 08:10AM BLOOD WBC-4.7 RBC-4.45* Hgb-12.4* Hct-36.9* 
MCV-83 MCH-28.0 MCHC-33.7 RDW-15.8* Plt ___
___ 08:10AM BLOOD Glucose-87 UreaN-12 Creat-1.0 Na-138 
K-3.7 Cl-100 HCO3-29 AnGap-13
___ 08:10AM BLOOD Calcium-10.0 Phos-2.8 Mg-2.3

IMAGING:

CXR ___:
Possible focal opacity at the inferior lingula, could represent 
pneumonia in the correct clinical setting.  Clinical correlation 
is advised.  

EKG ___:
Sinus tachycardia with sinus arrhythmia. Otherwise, within 
normal limits. No major diagnostic interim change from the 
previous tracing. 

 
Brief Hospital Course:
___ year old gentleman with HIV, Refsum's disease, reactive 
airway disease, restrictive lung disease who presents to the ___ 
with dyspnea and lightheadness. There was concern that his 
dyspnea was due to an acute worsening of his known reactive 
airway disease. His CXR was suspicious for a possible pneumonia. 
He was given steroids to help with the reactive airway disease 
and a course of azithromycin for possible community acquired 
pneumonia.  

ACTIVE PROBLEMS  
#) Dyspnea: At presentation the patient reported experiencing 
dyspnea (worse than his baseline) intermittently for a few days. 
The patient has a history of reactive airway disease which 
worsens with weather changes and his seasonal allergies -- this 
was thought to be at least a contributing factor to his acute 
worsening dyspnea. In the ___ his oxygen saturation was good on 
room air and there was no evidence of accessory muscle use with 
breathing on his initial exam. His CXR in ___ showed a possible 
infiltrate in the inferior lingula, and given his 
immunocomropised state (last CD4 225) there was a higher 
suspicion of an infectious process. He was started on 
azithromycin and ceftriaxone in the ___ (and later transitioned 
to azithromycin and cefpodoxime once he got to the general 
medicine floor). On the medicine floor his exam was remarkable 
for prominent end expiratory wheezing in bilateral lungs.  He 
was also given prednisone & albuterol and ipratropium nebulizer 
treatments for concerns that his reactive airway disease was 
contributing to his symptoms. Because he did not require 
supplemental oxygen and he had a low CURB 65 score it was felt 
that he could be discharged home. He was discharged on a 
prednisone burst and azithrmycin for a 5 day course.  Urine 
legionella negative. Blood cultures no growth at time of 
discharge. 
  
#) Lightheadness: The patient reported feeling lightheaded the 
morning of admission in addition to experiencing dyspnea.  At 
admission the differential included orthostasis, drug adverse 
effect (given that he started Atripla the day of admission), or 
alternatively a primary CNS process given immunocompromised 
state.  His neuro exam was unremarkable and his lightheadness 
resolved while he was in the Emergency Department without 
intervention. CBC, chem 10 and repeat EKGs were unremarkable.  
He was not orthostatic.  He was monitored on telemetry without 
any concerning events. His feelings of lightheadness did not 
reoccur.  Possible that could be related to Atripla although 
after discussion with ___. ___, this was continued. Further 
workup of his this lightheadness was deferred to the outpatient 
setting. 

CHRONIC ISSUES:

# HIV: Last CD4 count was 225. Followed by Dr. ___ as an 
outpatient. No history of AIDS defining infection in the past.  
He was started on Atripla on ___. Dr. ___ was 
contacted via email and agreed with continuing the patient on 
Atripla. 

# Hypertension: Stable. He was continued on home dose of HCTZ 
12.5 mg daily -- although the patient reported only taking it 
when his BP is high or when he has too much salt in his food. He 
was advised to his medication regularly and as it is prescribed 
by his PCP.

# Seasonal allergies: Stable -- may have been contributing to 
his dyspnea. He was continued on his home regimen of nasal 
fluticasone, fexofenidine and nasal saline flushes.

# Refsum disease c/b polyneuropathy: Stable. On a low fat diet 
during this admission.

TRANSITIONAL ISSUES:
[ ] follow up finalization of blood cultures 
.
#) CODE STATUS: Full  
#) CONTACT: patient and HCP ___ ___, 
___ (work)

 
Medications on Admission:
The Preadmissions Medication list may be inaccurate and require 
further investigation.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea/wheezing 
2. ATRIPLA *NF* (efavirenz-emtricitabin-tenofov) ___ mg 
Oral Once a day HIV 
3. Hydrochlorothiazide 12.5 mg PO DAILY Hypertension 
4. Lorazepam 0.5 mg PO HS:PRN Insomnia 
5. Asmanex Twisthaler *NF* (mometasone) 220 mcg (120 doses) 
Inhalation Twice a day 
6. Nasonex *NF* (mometasone) 50 mcg/actuation NU Once a day 
7. traZODONE 50 mg PO HS:PRN Insomnia 
8. Zolpidem Tartrate 5 mg PO HS:PRN Insomnia 
9. clemastine *NF* 1.34 mg Oral Daily:PRN Post-nasal drip 
10. Fexofenadine 60 mg PO BID 
11. Ibuprofen 400 mg PO Q8H:PRN arthritis 
12. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Fexofenadine 60 mg PO BID 
2. Hydrochlorothiazide 12.5 mg PO DAILY Hypertension 
3. Lorazepam 0.5 mg PO HS:PRN Insomnia 
4. Multivitamins 1 TAB PO DAILY 
5. Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0
6. PredniSONE 20 mg PO DAILY 
RX *prednisone 20 mg 1 tablet(s) by mouth daily Disp #*3 Tablet 
Refills:*0
7. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea/wheezing 
8. Asmanex Twisthaler *NF* (mometasone) 220 mcg (120 doses) 
Inhalation Twice a day 
9. ATRIPLA *NF* (efavirenz-emtricitabin-tenofov) ___ mg 
Oral Once a day HIV 
10. clemastine *NF* 1.34 mg Oral Daily:PRN Post-nasal drip 
11. Ibuprofen 400 mg PO Q8H:PRN arthritis 
12. Nasonex *NF* (mometasone) 50 mcg/actuation NU Once a day 
13. traZODONE 50 mg PO HS:PRN Insomnia 
14. Zolpidem Tartrate 5 mg PO HS:PRN Insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: bronchitis, dizziness/dehydration

Secondary: HIV, reactive airway disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to participate in your care at ___ 
___.  You came to the hospital for 
shortness of breath and dizziness.  We gave you antibiotics, 
steroids, nebulizer breathing treatments and IV fluids.

Please keep all of your follow up appointments. Please take all 
of medications as prescribed.  You will be taking steroids 
(prednisone) and antibiotics for a few days after leaving the 
hosptials.
 
Followup Instructions:
___